* Z:\home\rohith\Documents\ltspice\CourseProjectSchematic.asc
M1 N002 N002 N001 N004 PMOS l=0.18u w=0.93u
M2 N001 N002 N003 N005 PMOS l=0.18u w=0.93u
M3 N001 N003 Vout N006 PMOS l=0.18u w=8.784u
V1 N001 0 3.3V
C1 N003 Vout 0.2827n
M4 N009 Vin2 N003 N008 NMOS l=0.18u w=30520u
V2 Vin2 0 SINE(1.6 -0.5u 50) AC -0.001
M5 Vout N010 0 N011 NMOS l=0.18u w=5.04198u
V3 N010 0 1.595V
M6 N009 N010 0 N012 NMOS l=0.18u w=1.069u
M7 N002 Vin1 N009 N007 NMOS l=0.18u w=30520u
V4 Vin1 0 SINE(1.6 0.5u 50) AC 0.001
C2 Vout 0 45p
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\rohith\Documents\ltspice\lib\cmp\standard.mos
.model NMOS NMOS (kp=100u vt0=0.4 lambda=0.01)
.model PMOS PMOS (kp=50u vt0=-0.4 lambda=0.015)
.ac dec 10 1 1000000000
.include 180nm.txt
.backanno
.end
