* C:\users\rohith\My Documents\Documents\LTSpiceRunFIles\Draft4.asc
M1 N003 N001 0 N004 PMOS l=.18u w=5u
M2 N001 0 N003 N002 NMOS l=.18u w=5u
V1 N003 0 V
V2 N001 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\rohith\Documents\LTSpiceRunFIles\lib\cmp\standard.mos
.dc V1 0 1.8 0.01
.inc 180nm.txt
.backanno
.end
