* Z:\home\rohith\Documents\ltspice\Draft9.asc
V1 N003 0 V
V2 N002 0 1.2
V3 N001 0 1.8
M1 N001 N003 N006 N004 NMOS l=.18u w=10u
M2 N006 N002 Vout N005 NMOS l=.18u w=10u
I1 N006 0 1m
R1 N001 Vout 1k
.model NMOS NMOS
.model PMOS PMOS
.lib Z:\home\rohith\Documents\ltspice\lib\cmp\standard.mos
.include 180nm.txt
.dc V1 0 2.5 0.01
.backanno
.end
